US07915019B2
Reference Example 4 (Synthesis of 2-methoxyethyl 3-amino-3-phenylpropionate (racemic mixture))
To 6.00 mL (76.3 mmol) of 2-methoxyethanol were added 2.00 g (12.1 mmol) of 3-amino-3-phenylpropionic acid (racemic mixture) synthesized in Reference example 1 and 1.78 g (18.2 mmol) of conc. sulfuric acid, and the mixture was reacted under stirring at 60° C. for 4 hours. After completion of the reaction, the resulting reaction mixture was concentrated under reduced pressure, and then, 6 mol/L aqueous sodium hydroxide solution was added to the reaction mixture to adjust a pH thereof to 8.5. Then, 10 mL of ethyl acetate and 4 mL of water were added to the mixture to carry out extraction, and the organic layer was dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure to obtain 2.22 g (Isolation yield based on 3-amino-3-phenylpropionic acid (racemic mixture): 82.2%) of 2-methoxyethyl 3-amino-3-phenylpropionate (racemic mixture) as colorless liquid.

reactant | 2-methoxyethanol | 76.3 mmol, 6.00 mL | COCCO | C3H8O2
reactant | 3-amino-3-phenylpropionic acid | 12.1 mmol, 2.00 g | NC(CC(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | sulfuric acid | 18.2 mmol, 1.78 g | S(O)(O)(=O)=O | H2O4S
product | 2-methoxyethyl 3-amino-3-phenylpropionate | NC(CC(=O)OCCOC)C1=CC=CC=C1 | C12H17NO3
